US07138402B2
A suspension of the crude octanoic acid (4-chloro-6-pyrrolidin-1-ylmethyl-7H-pyrrolo[2,3-d]pyrimidin-2-yl)-amide (330 mg, 0.87 mmol), 2-chloromethyl-4-methoxy-3,5-dimethyl-pyridine (162 mg, 0.87 mmol) and K2CO3 (121 mg, 0.87 mmol) in dry DMF (1 mL) was heated to 45° C. overnight. After work-up (EtOAc) and evaporation, the residue was taken up in 6N methanolic HCl (1 mL), stirred at room temperature for 1 h, and neutralized to pH 7 with 2N NaOH. Extraction with EtOAc (10 mL×3), evaporation and purification by preparative TLC (MeOH/CH2Cl2 10:1) yielded 4-chloro-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-6-pyrrolidin-1-ylmethyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine (4.1 mg, yield 1.0%). HPLC Rt: 6.092 min. 1H-NMR (CDCl3): δ 8.09 (s, 1H), 6.31(s, 1H), 5.55(s, 2H), 4.85(s, 2H), 3.77 (s, 3H), 3.52(brs, 2H), 2.43 (m, 4H), 1.76–1.71 (m, 4H).

reactant | octanoic acid (4-chloro-6-pyrrolidin-1-ylmethyl-7H-pyrrolo[2,3-d]pyrimidin-2-yl)-amide | 0.87 mmol, 330 mg | ClC=1C2=C(N=C(N1)NC(CCCCCCC)=O)NC(=C2)CN2CCCC2 | C19H28ClN5O
reactant | 2-chloromethyl-4-methoxy-3,5-dimethyl-pyridine | 0.87 mmol, 162 mg | ClCC1=NC=C(C(=C1C)OC)C | C9H12ClNO
reactant | K2CO3 | 0.87 mmol, 121 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-chloro-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-6-pyrrolidin-1-ylmethyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine | 4.1 mg, yield 1.0% | ClC=1C2=C(N=C(N1)N)N(C(=C2)CN2CCCC2)CC2=NC=C(C(=C2C)OC)C | C20H25ClN6O
